US06797823B1
N-{4-[(6,7-Dimethoxy-4-quinazolinyl)oxy]-phenyl}-N′-pentylurea
4-[(6,7-Dimethoxy-4-quinazolinyl)oxy]aniline (50 mg) was dissolved in chloroform (3 ml) and triethylamine (0.2 ml), and a solutioin of triphosgene (50 mg) in chloroform was then added to the solution. The mixture was stirred at room temperature for 30 min. Next, amylamine (26 μl) was added to the reaction solution, and the mixture was stirred at room temperature overnight. Methanol was added to the reaction solution, and the mixture was purified by HPLC by development with chloroform/methanol to give 21 mg (yield 30%) of the title compound. 1H-NMR (DMSO-d6, 400 MHz): δ 0.89 (t, J=7.1 Hz, 3H), 1.27-1.47 (m, 4H), 1.41-1.48 (m, 2H), 3.06-3.11 (m, 2H), 3.97 (s, 3H), 3.99 (s, 3H), 6.13 (t, J=5.6 Hz, 1H), 7.15 (d, J=9.0 Hz, 2H), 7.37 (s, 1H), 7.46 (d, J=8.8 Hz, 2H), 7.55 (s, 1H), 8.47 (br, 1H), 8.53 (s, 1H).

reactant | 4-[(6,7-Dimethoxy-4-quinazolinyl)oxy]aniline | 50 mg | COC=1C=C2C(=NC=NC2=CC1OC)OC1=CC=C(N)C=C1 | C16H15N3O3
reactant | triphosgene | 50 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | amylamine | 26 μl | C(CCCC)N | C5H13N
reactant | Methanol | CO | CH4O
solvent | chloroform | 3 ml | C(Cl)(Cl)Cl | CHCl3
solvent | triethylamine | 0.2 ml | C(C)N(CC)CC | C6H15N
product | N-{4-[(6,7-Dimethoxy-4-quinazolinyl)oxy]-phenyl}-N′-pentylurea | 21 mg, yield 30% | COC=1C=C2C(=NC=NC2=CC1OC)OC1=CC=C(C=C1)NC(=O)NCCCCC | C22H26N4O4
